US04673746
To a mixture of 34 g of E-2',5'-difluoro-2-hydroxy-4-methoxybenzophenone O-acetyl oxime in 70 ml dimethylformamide at 65° C., 18.2 g of potassium carbonate is added. The mixture is stirred for 45 min and poured into water. The precipitate is collected and dried. Recrystallization from ether gives 3-(2,5-difluorophenyl)-6-methoxy-1,2-benzisoxazole, mp 121°-122° C.

reactant | E-2',5'-difluoro-2-hydroxy-4-methoxybenzophenone O-acetyl oxime | 34 g | C(C)(=O)O\N=C(/C1=C(C=C(C=C1)OC)O)\C1=C(C=CC(=C1)F)F | C16H13F2NO4
reactant | potassium carbonate | 18.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 3-(2,5-difluorophenyl)-6-methoxy-1,2-benzisoxazole | FC1=C(C=C(C=C1)F)C1=NOC2=C1C=CC(=C2)OC | C14H9F2NO2
